US08030302B2
5-(Benzyloxy)-6-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
To a solution of 5-(benzyloxy)-6-bromo-1H-indazole (5 g, 16.5 mmol) in THF (30 mL) and DCM (30 mL) is added 3,4-dihydro-2H-pyran (3 mL, 32.8 mmol) and methanesulfonic acid (1 mL, 15.3 mmol). After the reaction mixture is stirred at RT for 2 hours, EtOAc (50 mL) and saturated aqueous NaHCO3 are added. The organic phase is separated, dried over MgSO4, and concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (4:1) to give the desired product (2.7 g, 42.2% yield). MS (m/z): 387.0 (M+H).

reactant | 5-(benzyloxy)-6-bromo-1H-indazole | 16.5 mmol, 5 g | C(C1=CC=CC=C1)OC=1C=C2C=NNC2=CC1Br | C14H11BrN2O
reactant | 3,4-dihydro-2H-pyran | 32.8 mmol, 3 mL | O1CCCC=C1 | C5H8O
reactant | methanesulfonic acid | 15.3 mmol, 1 mL | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-(Benzyloxy)-6-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 2.7 g, 42.2% yield | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1Br)C1OCCCC1 | C19H19BrN2O2
